US07563910B2
Preparation of 2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide
To a solution of 77 mg of 2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid in 3 ml of dimethylformamide were added 74 mg of TBTU, 179 μl of N,N-diisopropylethylamine and 26 μl of cyclohexylamine and the reaction mixture was stirred at ambient temperature for 18 hours. After such time the reaction mixture was then concentrated in vacuo and purified by column chromatography (SiO2, heptane/ethyl acetate) to give 70 mg of the title compound as a colorless solid, MS (ISP) 451.5 (M+H)+.

reactant | 2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid | 77 mg | CC=1N(C(=CC1C(=O)O)C1=C(C=CC=C1)OC(F)(F)F)C[C@H]1OCCC1 | C18H18F3NO4
reactant | TBTU | 74 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethylamine | 179 μl | C(C)(C)N(C(C)C)CC | C8H19N
reactant | cyclohexylamine | 26 μl | C1(CCCCC1)N | C6H13N
solvent | dimethylformamide | 3 ml | CN(C=O)C | C3H7NO
product | 2-methyl-1-[(S)-1-(tetrahydro-furan-2-yl)methyl]-5-(2-trifluoromethoxy-phenyl)-1H-pyrrole-3-carboxylic acid cyclohexylamide | 70 mg | C1(CCCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC=C1)OC(F)(F)F)C[C@H]1OCCC1)C | C24H29F3N2O3
